US06310262B1
3.3. Preparation of (1R,3R,5S)-2,2-dimethyl-propionic acid 3-acetoxy-5-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl ester
To a solution of 10.67 g of (1R,3S,5S)-3-(tert-butyl-dimethyl-silanoxy)-5-hydroxy-cyclohex-1-yl acetate in 107 ml of THF was added at 22° 14.55 g of triphenylphosphine, the solution was cooled to 0° and treated dropwise with a solution of 11.81 g of diisopropyl azodicarboxylate and 5.67 g of pivalic acid in 85 ml of THF over 1 h and the solution was stirred at 0° for 1 h after which time t.l.c. showed completion of the reaction. The solution was evaporated, the residue triturated with 130 ml of hexane/AcOFt 9:1, the suspension was filtered and the filtrate evaporated. The residue was chromatographed on silica with hexane/AcOEt 30:1 to give 12.63 g of the pure (t.l.c.) title compound as a colorless oil. IR (neat): 1733s (C═O); MS (EI): 371/1 (M—H).

reactant | (1R,3S,5S)-3-(tert-butyl-dimethyl-silanoxy)-5-hydroxy-cyclohex-1-yl acetate | 10.67 g | C(C)(=O)O[C@H]1C[C@H](C[C@H](C1)O)O[Si](C)(C)C(C)(C)C | C14H28O4Si
reactant | triphenylphosphine | 14.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 11.81 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | pivalic acid | 5.67 g | C(C(C)(C)C)(=O)O | C5H10O2
solvent | THF | 107 ml | C1CCOC1 | C4H8O
solvent | THF | 85 ml | C1CCOC1 | C4H8O
product | (1R,3R,5S)-2,2-dimethyl-propionic acid 3-acetoxy-5-(tert-butyl-dimethyl-silanyloxy)-cyclohexyl ester | C(C)(=O)O[C@@H]1C[C@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)OC(C(C)(C)C)=O | C19H36O5Si
